US07851469B2
3-(4-Fluoro-phenyl)-5-trifluoromethyl-4-[1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazole
As described for Example 24, 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole (100 mg, 0.34 mmol), using 4-fluorobenzotrifluoride instead of 4-fluoroacetophenone, was converted to the title compound (50 mg, 34%) which was obtained as a white solid. MS: m/e=442.1 [M+H]+.

reactant | 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-trifluoromethyl-isoxazole | 0.34 mmol, 100 mg | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CNC1)C(F)(F)F | C13H7F4N3O
reactant | 4-fluorobenzotrifluoride | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
product | 3-(4-Fluoro-phenyl)-5-trifluoromethyl-4-[1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazole | 50 mg, 34% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C20H10F7N3O
